US06329381B1
2,6-Diamino-9-benzylpurine
2,6-Diaminopurine (5.00 g, 33.3 mmol) and potassium carbonate (6.91 g, 50.0 mmol) were suspended in DMF (250 ml). Benzyl bromide (8.55 g, 50 mmol) was added thereto and the mixture was stirred at room temperature for 5 hours. After condensing the reaction mixture in vacuo, to the residue was added water and the mixture was extracted with chloroform. The organic layer was dried on sodium sulfate, filtered and the solvent in the filtrate was evaporated in vacuo. The residue was purified with silica gel chromatography (5% methanol/chloroform) to give the subject compound (1.56 g, yield 19%).

reactant | 2,6-Diaminopurine | 33.3 mmol, 5.00 g | NC1=NC(=C2NC=NC2=N1)N | C5H6N6
reactant | potassium carbonate | 50.0 mmol, 6.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl bromide | 50 mmol, 8.55 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 2,6-Diamino-9-benzylpurine | 1.56 g, yield 19% | NC1=NC(=C2N=CN(C2=N1)CC1=CC=CC=C1)N | C12H12N6
